US06998412B2
Ethyl 6-chloro-2-ethoxycarbonyl-2-(p-toluoylamino)hexanoate
Sodium (6.42 g) was dissolved in 390 ml of ethanol at room temperature. To the solution was added 78.0 g of diethyl p-toluoylaminomalonate, and 47.9 g of 1-bromo-4-chlorobutane was added dropwise under heating to reflux. The mixture was heated to reflux for 20 hours. The reaction solution was concentrated. To the residue was added water, and the mixture was washed with ethyl acetate. After washing with 10% hydrochloric acid and water sequentially, the solution was dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography (Wakogel® C-200, n-hexane:ethyl acetate=9:1) to provide 55.7 g of the objective compound as colorless oil.

reactant | Sodium | 6.42 g | [Na] | Na
reactant | diethyl p-toluoylaminomalonate | 78.0 g | C1(=CC=C(C=C1)C(=O)NC(C(=O)OCC)C(=O)OCC)C | C15H19NO5
reactant | 1-bromo-4-chlorobutane | 47.9 g | BrCCCCCl | C4H8BrCl
solvent | ethanol | 390 ml | C(C)O | C2H6O
product | Ethyl 6-chloro-2-ethoxycarbonyl-2-(p-toluoylamino)hexanoate | 55.7 g | ClCCCCC(C(=O)OCC)(NC(=O)C1=CC=C(C=C1)C)C(=O)OCC | C19H26ClNO5
